US08703810B2
(S)-2-(3-Methylpyrrolidin-1-yl)ethanol
The title compound was synthesized as described in Intermediate 11 using (S)-dimethyl 2-methylsuccinate and 2-aminoethanol as starting materials. 1H NMR (CDCl3): δ 3.66 (t, 1H), 2.93 (dd, 1H), 2.81 (m, 1H), 2.73 (m, 1H), 2.66 (m, 1H), 2.63 (m, 1H), 2.29 (m, 1H), 2.18 (dd, 2H), 2.05 (m, 1H), 1.40 (m, 1H), 1.04 (d, 3H); MS: 130.2 (M+H)+.

reactant | (S)-dimethyl 2-methylsuccinate | C[C@H](C(=O)OC)CC(=O)OC | C7H12O4
reactant | 2-aminoethanol | NCCO | C2H7NO
product | (S)-2-(3-Methylpyrrolidin-1-yl)ethanol | C[C@@H]1CN(CC1)CCO | C7H15NO
